US04030994
Fluoro-ε-aminocaprolactam
ε-Aminocaprolactam (2.26 g., 0.02 mole) is dissolved in 60 ml. of liquid HF. Fluoroxytrifluoromethane (10.4 g., 0.1 mole) is passed into the solution under ultraviolet irradiation over 51/2 hours, while kept under vigorous stirring in a dry-ice-acetone cooling bath. After 11/2 hours more ultraviolet irradiation under similar conditions, the solvent is removed by distillation. The residue is quenched with ice and water and extracted 3 times with ethyl acetate. The combined extracts are washed with aqueous sodium bicarbonate solution, dried over magnesium sulfate and evaporated to dryness, to give a mixture of C-fluorinated caprolactams, with the main components being difluorocaprolactam and trifluoro-caprolactam.

reactant | ε-Aminocaprolactam | 0.02 mole, 2.26 g | NC1CCCCC(=O)N1 | C6H12N2O
reactant | Fluoroxytrifluoromethane | 0.1 mole, 10.4 g | FOC(F)(F)F | CF4O
reactant | difluorocaprolactam | FC1(C(=O)NCCCC1)F | C6H9F2NO
reactant | trifluoro-caprolactam | FC1C(C(=O)NCCC1)(F)F | C6H8F3NO
product | Fluoro-ε-aminocaprolactam | FC1C(=O)NC(CCC1)N | C6H11FN2O
